US08034812B2
To a solution of 3-nitroaniline (1.0 g, 7.2 mmol) in N,N-dimethylacetamide (6 mL) was added a solution of 1,3-dimethyl-1H-pyrazole-5-carbonylchloride (1260 mg, 8.0 mmol) in N,N-dimethylacetamide (2 mL), and the mixture was stirred at room temperature for 30 min. Water (200 mL) was added to the mixture under ice-cooling, and the mixture was filtrated. The obtained solid was washed with water and diethyl ether to give 1,3-dimethyl-N-(3-nitrophenyl)-1H-pyrazole-5-carboxamide (1850 mg, 7.1 mmol). To a solution of the obtained 1,3-dimethyl-N-(3-nitrophenyl)-1H-pyrazole-5-carboxamide (1850 mg, 7.1 mmol) in ethanol (50 mL) was added 10% palladium/carbon (190 mg). Hydrazine monohydrate (1090 mg, 22 mmol) was slowly added to the mixture at room temperature and the mixture was stirred at 60° C. for 1 hr. The reaction mixture was filtrated, and the filtrate was evaporated under reduced pressure. To the residue were added ethyl acetate and water, and the aqueous layer was extracted with ethyl acetate (×4). Combined organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and filtrated. The filtrate was concentrated under reduced pressure, and the residue was washed with ethyl acetate/hexane to give the title compound (1650 mg, 99%) as a pale-yellow solid.

reactant | 3-nitroaniline | 7.2 mmol, 1.0 g | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | 1,3-dimethyl-1H-pyrazole-5-carbonylchloride | 8.0 mmol, 1260 mg | CN1N=C(C=C1C(=O)Cl)C | C6H7ClN2O
reactant | Water | 200 mL | O | H2O
solvent | N,N-dimethylacetamide | 6 mL | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylacetamide | 2 mL | CN(C(C)=O)C | C4H9NO
product | 1,3-dimethyl-N-(3-nitrophenyl)-1H-pyrazole-5-carboxamide | 7.1 mmol, 1850 mg | CN1N=C(C=C1C(=O)NC1=CC(=CC=C1)[N+](=O)[O-])C | C12H12N4O3
